US08492549B2
3-Allyl-1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-piperidine-3-carboxylic acid ethyl ester
The procedure described above for 1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-ethylpiperidine-3-carboxylic acid ethyl ester was repeated except that allyl bromide was used instead of methyl iodide.

reactant | 1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-3-ethylpiperidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1(CN(CCC1)CC1COC2=C(O1)C=CC=C2)CC | C19H27NO4
reactant | allyl bromide | C(C=C)Br | C3H5Br
product | 3-Allyl-1-(2,3-dihydrobenzo[1,4]dioxin-2-ylmethyl)-piperidine-3-carboxylic acid ethyl ester | C(C)OC(=O)C1(CN(CCC1)CC1COC2=C(O1)C=CC=C2)CC=C | C20H27NO4
